US07674807B2
3-(1,1-Dimethyl-2-methylsulfanyl-ethylimino)-4-iodo-3H-isobenzofuran-1-one (0.53 g) and 1-(3-methyl-4-aminobenzyl)-3,5-bis(trifluoromethyl)-1H-pyrazole (0.45 g) were dissolved in acetonitrile (15 ml), to which p-toluenesulfonic acid monohydrate (0.01 g) was added and the mixture was stirred at 60° C. for 3 hours. After finishing the reaction, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography to obtain N1-[4-(3,5-bistrifluoromethylpyrazol-1-ylmethyl)-2-methylphenyl]-N2-(1,1-dimethyl-2-methylsulfanylethyl)-3-iodophthalamide (0.91 g). mp. 83-87° C.

reactant | 3-(1,1-Dimethyl-2-methylsulfanyl-ethylimino)-4-iodo-3H-isobenzofuran-1-one | 0.53 g | CC(CSC)(C)N=C1OC(C2=CC=CC(=C12)I)=O | C13H14INO2S
reactant | 1-(3-methyl-4-aminobenzyl)-3,5-bis(trifluoromethyl)-1H-pyrazole | 0.45 g | CC=1C=C(CN2N=C(C=C2C(F)(F)F)C(F)(F)F)C=CC1N | C13H11F6N3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | p-toluenesulfonic acid monohydrate | 0.01 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | N1-[4-(3,5-bistrifluoromethylpyrazol-1-ylmethyl)-2-methylphenyl]-N2-(1,1-dimethyl-2-methylsulfanylethyl)-3-iodophthalamide | 0.91 g | FC(C1=NN(C(=C1)C(F)(F)F)CC1=CC(=C(C=C1)NC(C=1C(C(=O)NC(CSC)(C)C)=C(C=CC1)I)=O)C)(F)F | C26H25F6IN4O2S
